US06306859B1
[4-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl]-acetonitrile
A solution of bromoacetonitrile (2.38 g, 19.86 mmol), benzodioxin-5-ylpiperazine (5.1 g, 19.86 mmol) and triethylamine (11.05 mL, 79.4 mmol) in dimethylformamide (50 mL) was stirred under a nitrogen atmosphere at 70° C. for 3 days. Water (300 mL) was added and the product extracted into ethyl acetate (6×50 mL). The combined organic layers were washed with water (50 mL) and brine (50 mL) and dried over anhydrous sodium sulfate. Filtration and concentration on a rotary evaporator gave the desired compound as a light yellow oil which solidified on standing (5.1 g, 99% yield). The compound was isolated as its hydrochloride salt by treatment in ethyl acetate with ethereal HCl to yield a light yellow solid, mp=193-194° C.; MS (+) ESI m/z=260 (M+H)+.

reactant | bromoacetonitrile | 19.86 mmol, 2.38 g | BrCC#N | C2H2BrN
reactant | benzodioxin-5-ylpiperazine | 19.86 mmol, 5.1 g | O1C=COC2=C1C=CC=C2N2CCNCC2 | C12H14N2O2
reactant | triethylamine | 79.4 mmol, 11.05 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 300 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | [4-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-piperazin-1-yl]-acetonitrile | 99% yield | O1CCOC2=C1C=CC=C2N2CCN(CC2)CC#N | C14H17N3O2
